US08471005B2
3-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-benzoic acid
3-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-benzoic acid ethyl ester (77.0 mg, 0.156 mmol) was taken up in 2 M of Sodium hydroxide in water (2.00 mL, 5.00 mmol) and 2 ml THF, heated for 72 h at 60° C. Concentrated down THF, neutralized aq layer, and extracted with CH2Cl2. Dried, filtered, and concentrated. Took residue up in DMSO and purified by Gilson RP-HPLC. LCMS=465.9 (M+H), HPLC rt=3.199, purity=98%. 1H NMR (400 MHz, CDCl3, δ, ppm): 12.95 (bs, 1H), 9.74 (s, 1H), 9.07 (s, 1H), 8.42 (d, J=7.6 Hz, 1H), 8.44 (s, 1H), 8.26 (s, 1H), 8.07 (d, J=8.3 Hz, 1H), 7.72 (dd, J=8.3 Hz, 7.6 Hz, 1H), 7.61 (s, 1H), 7.55 (d, J=8.3 Hz, 1H), 7.47 (dd, J=7.6 Hz, 8.3 Hz, 1H), 7.24 (d, J=4.6 Hz, 1H), 7.04 (d, J=4.9 Hz, 1H), 1.1 (s, 9H).

reactant | 3-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-benzoic acid ethyl ester | 0.156 mmol, 77.0 mg | C(C)OC(C1=CC(=CC=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(NC(C)(C)C)(=O)=O)=O | C25H27N5O4S
reactant | water | 5.00 mmol, 2.00 mL | O | H2O
solvent | Sodium hydroxide | 2 M | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-benzoic acid | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=C(C(=O)O)C=CC2 | C23H23N5O4S
